US04011225
Sym. octahydroacridine was prepared by converting cyclohexanone to di-(2-oxo-cyclohex-1-yl)-methane and further reacting with hydroxylamine according to the method of Gill et al (JACS 1952, 74, 4923) and was isolated as a colourless oil b.p. 110°-15°/0.5 mm. in 40% overall yield.

reactant | cyclohexanone | C1(CCCCC1)=O | C6H10O
reactant | di-(2-oxo-cyclohex-1-yl)-methane | O=C1C(CCCC1)CC1C(CCCC1)=O | C13H20O2
reactant | hydroxylamine | NO | H3NO
product | octahydroacridine | C1CCCC2NC3CC=CC=C3C=C12 | C13H17N
